US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(5-bromo-2-methoxyphenyl)-1,2,4-oxadiazole (66.4 mg, 0.2 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (65 mg, 0.4 mmol), and Pd(PPh3)4 (23 mg, 0.02 mmol) in a solution of 2M sodium carbonate (2 mL) and ethylene glycol dimethyl ether (2 mL) was heated overnight at 105° C. Standard work up afforded 21 mg (32%) 3-(2-pyridyl)-5-[2-methoxy-5-(3-pyridyl)phenyl]-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(5-bromo-2-methoxyphenyl)-1,2,4-oxadiazole | 0.2 mmol, 66.4 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)Br)OC | C14H10BrN3O2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.4 mmol, 65 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
product | 3-(2-pyridyl)-5-[2-methoxy-5-(3-pyridyl)phenyl]-1,2,4-oxadiazole | 21 mg, 32% | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1)C=1C=NC=CC1)OC | C19H14N4O2
